US08729105B2
Preparation of methyl 5-(4-chloro-3-methylphenyl)-6-(2,2,2-trifluoroethoxy)nicotinate
5-Bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid methyl ester (CAN 1211589-51-3; 4.0 g; 12.7 mmol) and 4-chloro-3-methylphenylboronic acid (CAN 161950-10-3; 3.26 g, 19.1 mmol) were combined in DMSO (100 mL) to give a white suspension. To this suspension was added, Na2CO3 (4.05 g, 38.2 mmol) in water (10 mL) and 1,1′-bis(diphenylphosphino)-ferrocene-palladium(II)dichloride dichloromethane complex (1.04 g, 1.27 mmol). The reaction mixture was heated to 80° C. and stirred for 2.5 h, cooled and poured into 200 mL ethyl acetate:heptane (1:1) and extracted with H2O (3×100 mL) and brine (1×150 ml). The aqueous layer was extracted with EtOAc:Heptane (1:1) (1×200 mL). The organic layers were combined, dried with Na2SO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 70 g, 0% to 100% ethyl acetate in heptane) to yield 4.86 g (90%) of the title compound as light red solid; MS (EI): 360.1 (M+H)+.

reactant | 5-Bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid methyl ester | 12.7 mmol, 4.0 g | COC(=O)C=1C=NC(=C(C1)Br)OCC(F)(F)F | C9H7BrF3NO3
reactant | 4-chloro-3-methylphenylboronic acid | 19.1 mmol, 3.26 g | ClC1=C(C=C(C=C1)B(O)O)C | C7H8BClO2
reactant | Na2CO3 | 38.2 mmol, 4.05 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl acetate heptane | 200 mL | C(C)(=O)OCC.CCCCCCC
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
solvent | water | 10 mL | O | H2O
product | methyl 5-(4-chloro-3-methylphenyl)-6-(2,2,2-trifluoroethoxy)nicotinate | 4.86 g, 90% | ClC1=C(C=C(C=C1)C=1C(=NC=C(C(=O)OC)C1)OCC(F)(F)F)C | C16H13ClF3NO3
